US06465467B1
Step 1: 2-(Methylamino)-8-quinolinol.
To a solution of 2-chloro-8-hydroxyquinoline* (2.0 g, 11.1 mmol) in EtOH (40 mL) was added H2NMe (40% aqueous solution, 40 mL, 464 mmol). The mixture was heated in a sealed Pyrex tube at 100° C. for 24 h. The solvent was evaporated and the resulting crude product was purified by column chromatography [gradient: CH2Cl2/MeOH (99:1) to 1% NH4OH in CH2Cl2/MeOH (80:20)] to give the title compound as a black-green solid. Yield 1.31 g (67%); MS m/z 174 (M)+. Anal. (C10H10N2O) C, H, N.

reactant | 2-chloro-8-hydroxyquinoline | ClC1=NC2=C(C=CC=C2C=C1)O | C9H6ClNO
reactant | H2NMe | 464 mmol, 40 mL | NC | CH5N
solvent | EtOH | 40 mL | CCO | C2H6O
product | 2-(Methylamino)-8-quinolinol | CNC1=NC2=C(C=CC=C2C=C1)O | C10H10N2O
